US06200976B1
b. 2-chloro-4-methyl-quinazoline
Prepared analogously to Example 27c from 4-methyl-1H-quinazolin-2-one and phosphorus oxychloride in hydrochloric acid.

reactant | 4-methyl-1H-quinazolin-2-one | CC1=NC(NC2=CC=CC=C12)=O | C9H8N2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | hydrochloric acid | Cl | ClH
product | 2-chloro-4-methyl-quinazoline | ClC1=NC2=CC=CC=C2C(=N1)C | C9H7ClN2
